US07271181B2
To a stirred solution of sodium hydride (2 eq.) in rigorously degassed THF (approximately 50 mL/g) at 0° C., was added dropwise a solution of (2,6-difluorophenyl)-(5-bromopyridin-2-yl)-amine (1 eq.) in THF (approximately 15 mL/g). The solution was allowed to warm slowly to room temperature over 1 hour, after which time the solution was cooled to −78° C. n-Butyllithium (approximately 1.6 M in hexanes, 1.1 eq.) was added dropwise over 15 minutes and the resultant solution was stirred at −78° C. for 1 hour. Zinc chloride/TMEDA complex (prepared as described by Isobe et al., Chem. Lett., 1977, 679) was added as a solid in a single portion and the solution was allowed to warm to 0° C. over 30 minutes, and was stirred at 0° C. for a further 1 hour. A solution of iodine (1.1 eq.) in THF (approximately 10 mL/g) was added and the solution was allowed to warm to room temperature. After stirring at room temperature for at least 1 hour, the reaction was quenched with a saturated aqueous solution of ammonium chloride. The solution was extracted with diethyl ether (3 times approximately 50 mL/g of 5-Bromopyridin-2-yl)-(2,6-difluorophenyl)-amine used). The combined organic layer was washed successively with 10% aqueous sodium sulfite solution (approximately 50 mL/g), saturated aqueous sodium thiosulfate solution (approximately 50 mL/g) and water (approximately 50 mL/g), dried over MgSO4 and concentrated in vacuo to give the crude reaction product as an orange oil. Purification by column chromatography, using 10% ethyl acetate:hexane as eluant, provided (2,6-Difluoro-phenyl)-(5-iodo-pyridin-2-yl)-amine (Rf 0.22) in approximately 50% yield.

reactant | sodium hydride | 2 eq. | [H-].[Na+]
reactant | (2,6-difluorophenyl)-(5-bromopyridin-2-yl)-amine | 1 eq. | FC1=C(C(=CC=C1)F)NC1=NC=C(C=C1)Br | C11H7BrF2N2
reactant | n-Butyllithium | approximately 1.6 M, 1.1 eq. | C(CCC)[Li]
reactant | iodine | 1.1 eq. | II | I2
solvent | THF | C1CCOC1 | C4H8O
product | (2,6-Difluoro-phenyl)-(5-iodo-pyridin-2-yl)-amine | approximately 50% yield | FC1=C(C(=CC=C1)F)NC1=NC=C(C=C1)I | C11H7F2IN2
